US04948889
(A) Preparation of 2-[N,N-bis(2,2,6,6-tetramethyl-4-piperidyl)amino]-4,6-dichloro-1,3,5-triazine
29.5 g (0.1 mol) of bis(2,2,6,6-tetramethyl-4-piperidyl)amine are slowly added to a solution, cooled to -10° C., of 18.45 g (0.1 mol) of cyanuric chloride in 160 ml of xylene, maintaining the temperature at about 0° C. After the end of the addition, the mixture is stirred for 3 hours at room temperature, 4.4 g (0.11 mol) of powdered sodium hydroxide are added and stirring is continued for a further 2 hours at room temperature.

reactant | bis(2,2,6,6-tetramethyl-4-piperidyl)amine | 0.1 mol, 29.5 g | CC1(NC(CC(C1)NC1CC(NC(C1)(C)C)(C)C)(C)C)C | C18H37N3
reactant | cyanuric chloride | 0.1 mol, 18.45 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium hydroxide | 0.11 mol, 4.4 g | [OH-].[Na+]
solvent | xylene | 160 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[N,N-bis(2,2,6,6-tetramethyl-4-piperidyl)amino]-4,6-dichloro-1,3,5-triazine | CC1(NC(CC(C1)N(C1CC(NC(C1)(C)C)(C)C)C1=NC(=NC(=N1)Cl)Cl)(C)C)C | C21H36Cl2N6
